US09102692B2
Iodine (1.4 g, 5.5 mmol, 1.1 eq.) was gradually added to a mixture solution of 4-bromo-3-trifluoromethyl aniline (1.2 g, 1.0 mmol), silver sulfate (1.72 g, 5.5 mmol, 1.1 eq.), and anhydrous ethanol (35 ml). This was stirred at room temperature for two and half hours. The reaction mixture was filtered through Celite, and washed with ethyl acetate. The wash solution was washed with aqueous solutions of 10% sodium thiosulfate, saturated sodium bicarbonate, and saturated sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Crude solid 4-bromo-2-iodo-5-trifluoromethyl-phenylamine was obtained by concentration under reduced pressure. The resulting crude product was used in subsequent reactions without being purified.

reactant | Iodine | 5.5 mmol, 1.4 g, 1.1 eq. | II | I2
reactant | 4-bromo-3-trifluoromethyl aniline | 1.0 mmol, 1.2 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
catalyst | silver sulfate | 5.5 mmol, 1.72 g, 1.1 eq. | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-bromo-2-iodo-5-trifluoromethyl-phenylamine | BrC1=CC(=C(C=C1C(F)(F)F)N)I | C7H4BrF3IN
